US07172749B2
3-Bromoaniline is coupled with 4-chloro-7-fluoro-6-nitroquinazoline, to produce 4-[(3-bromophenyl)amino]-7-fluoro-6-nitroquinazoline, which is reacted thereafter with the sodium salt of 3-(4-morpholinyl)-1-propanol, as described hereinabove, to produce 4-[(3-bromophenyl)amino]-7-[3-(4-morpholinyl)propoxy]-6-nitroquinazoline. The morpholino-substituted 6-nitroquinazoline is then reduced to the corresponding 6-aminoquinazoline, which is further reacted with bistributyltin, bromine-76 or bromine-77 and acryloyl chloride, as described hereinabove, to yield the final bromine-76 labeled or bromine-77 labeled product.

reactant | 3-Bromoaniline | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 4-chloro-7-fluoro-6-nitroquinazoline | ClC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])F | C8H3ClFN3O2
product | 4-[(3-bromophenyl)amino]-7-fluoro-6-nitroquinazoline | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])F | C14H8BrFN4O2
